2147-10-17 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2147-10-16**] 08:20 AM
 MULTI LUMEN - START [**2147-10-16**] 08:43 AM
 TRANSTHORACIC ECHO - At [**2147-10-16**] 09:39 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-10-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2147-10-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: c/o chest discomfort (same as before) also with mild
   epigastric discomfort
   Flowsheet Data as of  [**2147-10-17**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 84 (70 - 117) bpm
   BP: 108/63(73) {97/55(68) - 130/88(92)} mmHg
   RR: 17 (9 - 27) insp/min
   SpO2: 87%
   Height: 70 Inch
    CVP: 4 (2 - 6)mmHg
   Total In:
                                                                  1,970 mL
                                                                    537 mL
   PO:
   TF:
   IVF:
                                                                  1,970 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    228 mL
   Urine:
                                                                    700 mL
                                                                    228 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,270 mL
                                                                    309 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 87%  on 6L O2
   ABG: ///33/
   Physical Examination
   Labs / Radiology
   394 K/uL
   8.6 g/dL
   128 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   38 mg/dL
   108 mEq/L
   144 mEq/L
   27.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2147-10-16**]  07:24 AM
                             [**2147-10-16**]  02:06 PM
                             [**2147-10-16**]  07:44 PM
                             [**2147-10-17**]  04:40 AM
   WBC
   14.9
   6.7
   Hct
   34.0
   27.3
   Plt
   443
   394
   Cr
   1.0
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   151
   128
   Other labs: PT / PTT / INR:14.1/28.3/1.2, CK / CKMB /
   Troponin-T:105/2/<0.01, ALT / AST:34/76, Alk Phos / T Bili:64/1.9,
   Amylase / Lipase:85/25, Differential-Neuts:84.2 %, Band:0.0 %,
   Lymph:8.4 %, Mono:7.2 %, Eos:0.1 %, Albumin:1.9 g/dL, LDH:148 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 68 year-old male with HTN and hyperlipidemia with recent
   diagnosis of signet-ring cell gastric cancer invading transverse colon
   s/p subtotal gastrectomy, transverse colectomy, feeding J on [**10-12**] who
   presents with increasing oxygen requirement, persistent tachycardia,
   and EKG changes concerning for ischemia.
   .
   Plan:
   # Hypoxia: Patient with post-op hypoxia which may be consistant with
   atelectasis vs. pleural effusions as seen on CXR, as well as post-op
   pneumoperitoneaum which at this point should have resolved.  Cardiac
   etiology, given tachycardia, also possible but no evidence of CHF, PE
   on imaging studies. Pneumonia possible but unlikely as patient has no
   cough and is afebrile.
   - inspiratory spirometry, chest PT
   -OOB to chair
   - ? need for thoracentesis is no improvement in effusions
   - repeat ABG if patient becomes increasingly hypoxic
   .
   # Tachycardia: Improved with IV metoprolol. Hypovolemia still may be
   exacerbating his tachycardia given low UOP, low CVP. Echo consistant
   with LVH, possibly HOCM? Given thickened septum. CTA negative. Cardiac
   enzymes negative -3. Afebrile.
   - continue IV metoprolol to ensure absorption
   - f/u cards recommendations
   - monitor  CVP, IVF bolus to goal of 12
   -1U PRBC
   -PT to assist with ambulation
   Echo results: The left atrium is mildly dilated. There is moderate
   symmetric left ventricular hypertrophy. The left ventricular cavity is
   unusually small. Due to suboptimal technical quality, a focal wall
   motion abnormality cannot be fully excluded. Overall left ventricular
   systolic function is normal (LVEF>55%). Tissue Doppler imaging suggests
   a normal left ventricular filling pressure (PCWP<12mmHg). The right
   ventricular cavity is mildly dilated with mild global free wall
   hypokinesis. The aortic root is mildly dilated at the sinus level. The
   aortic valve leaflets (3) are mildly thickened but aortic stenosis is
   not present. No aortic regurgitation is seen. The mitral valve leaflets
   are mildly thickened. Trivial mitral regurgitation is seen. The
   estimated pulmonary artery systolic pressure is normal. There is no
   pericardial effusion.
   IMPRESSION: Moderate symmetric left ventricular hypertrophy with global
   normal systolic function (cannot exclude regional dysfunction). Mildly
   dilated right ventricle with mild hypokinesis.
   # ST elevations transiently on EKG: CE neg x3, echo suggestive of LVH
   and hypertrophic septum, and mild free wall hypokinesis but nothing
   concerning for large MI. Per cardiology could also consider vasospasm
   as cause of intermittent chest pains and EKG changes.
   - statin, ASA, metoprolol
   -increase metoprolol to 10mg
   - f/u cards recs
   - telemetry
   - 1U PRBC to maintain hct >28 in setting of ?CAD
   .
   # Low Urine Output: per surgery goal is 30cc/hr, currently on LR at
   80cc/hr; CVP is also low c/w IV hypovolemia. Also FeNa<1, urine w/
   hyaline casts, granular casts c/w pre-renal etiology. Urine ctx
   negative.
   - continue maintenance fluids as recommended by surgery
   - monitor UOP closely, bolus for CVP<12, UOP <30cc/hr
   .
   # Gastric CA s/p partial gastrectomy/transverse colectomy w/ end-end
   anastamosis: Incision healing nicely, J-tube in place.
   - TF start today
   - pain control w/ IV dilaudid PCA
   - f/u surgery recs, clarify use of J-tube
   .
   # FEN:  TF at goal,
   .
   # Access: right subclavian, PIV x2
   .
   # PPx:  Hep SC, pneuomboots, PPI
   .
   # Code:  FC
   .
   # Dispo:  ICU care for now
   .
   # Comm:  surgical team, wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-10-16**] 06:34 AM
   Multi Lumen - [**2147-10-16**] 08:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Also noted was drop in hematocrit by 7pts which was confirmed with
   repeat CBC. This was another reason for transfusin of PRBC.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1477**] [**Name8 (MD) 1478**], MD
   on:[**2147-10-17**] 13:07 ------

2147-10-17 11:44:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2147-10-16**] 08:20 AM
 MULTI LUMEN - START [**2147-10-16**] 08:43 AM
 TRANSTHORACIC ECHO - At [**2147-10-16**] 09:39 AM
   Decreased HCT noted overnight
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-10-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2147-10-16**] 08:00 PM
   Heparin Sodium - [**2147-10-17**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2147-10-17**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 96 (70 - 115) bpm
   BP: 114/59(73) {97/55(67) - 126/71(92)} mmHg
   RR: 15 (9 - 24) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 6 (2 - 6)mmHg
   Total In:
                                                                  1,970 mL
                                                                    940 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                  1,970 mL
                                                                    910 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    363 mL
   Urine:
                                                                    700 mL
                                                                    363 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,270 mL
                                                                    577 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 89%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   357 K/uL
   128 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.8 mEq/L
   38 mg/dL
   108 mEq/L
   144 mEq/L
   27.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2147-10-16**]  07:24 AM
                             [**2147-10-16**]  02:06 PM
                             [**2147-10-16**]  07:44 PM
                             [**2147-10-17**]  04:40 AM
                             [**2147-10-17**]  08:45 AM
   WBC
   14.9
   6.7
   6.1
   Hct
   34.0
   27.3
   27.8
   Plt
   [**Telephone/Fax (3) 2000**]
   Cr
   1.0
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   151
   128
   Other labs: PT / PTT / INR:14.1/28.3/1.2, CK / CKMB /
   Troponin-T:105/2/<0.01, ALT / AST:34/76, Alk Phos / T Bili:64/1.9,
   Amylase / Lipase:85/25, Differential-Neuts:84.2 %, Band:0.0 %,
   Lymph:8.4 %, Mono:7.2 %, Eos:0.1 %, Albumin:1.9 g/dL, LDH:148 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR--persistent areas of infiltrate seen with suggestion of
   both effusion and consolidation seen.
   Assessment and Plan
   68 yo male s/p gastrectomy and transverse colectomy now admit to ICU
   with post operative hyoxemia, chest discomfort and decreased urine
   output.  He has findings on CT scan to suggest significant regions of
   atelectasis and likely shunt through those regions contributing to
   hypoxia.  No significant findings of PE are described in review of
   scan.  He has had persistent hypoxemia but no significant worsening.
   Decreased HCT is noted overnight.
   1)Hypoxemia
Patient has bilateral areas of consolidation and consistent
   with significant collapse.  Will need to maintain adquate oxygen
   support to allow ambulation
   -OOB to chair
   -OOB and ambulation
   -Continue with good pain control
   -No evidence of PE on CTA
   -
   2)Anemia
he does have decreased HCT noted and has been discussed with
   surgery team
   -Plan to repeat HCT this pm
   3)Tachycardia and ST segment elevations-Is concern for significant
   myocardial ischemia in the setting of tachycardia and anemia.
   Encouraging that patient does not have significant evidence of
   myocardial injury but will need supportive Rx with ASA., rate control
   and adquate volume for ventricular filling
   -ASA to continue
   -PRBC goal would be reasonable to be 30 in the setting of active
   ischemia as suggested by cardiology evaluation and findings on ECG
   -B-blocker and statin are in place
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-10-16**] 06:34 AM
   Multi Lumen - [**2147-10-16**] 08:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2147-10-18 07:06:00 Physician Resident Progress Note
Chief Complaint: This is a 68 year-old male with HTN and hyperlipidemia
   with recent diagnosis of signet-ring cell gastric cancer invading
   transverse colon s/p subtotal gastrectomy, transverse colectomy,
   feeding J on [**10-12**] who presents with increasing oxygen requirement,
   persistent tachycardia, and EKG changes concerning for ischemia.
   24 Hour Events:
   Yesterday patient started on tube feeds and sips. patient appeared
   initially to tolerate well then overnight had bilious emesis with
   nausea, no significant abdominal pain.  patient was passing dark watery
   brown stool stated not with a lot of gas. belching a lot.  Called
   surgery who said okay to one time dose of zofran. we decided to hold
   tube feeds and make npo again. discussed with surgical team again this
   morning, decision for upper gi with small bowel follow-through.  also,
   patient extremely anxious overnight. nursing requesting something for
   sleep. patient states that "time is crawling by."  written for 1 time
   dose of ativan. surgery to address with their attending plan for PM
   sleep meds.  After one dose of ativan patient appears confused, says he
   is in Disneyworld.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-10-17**] 07:49 PM
   Heparin Sodium - [**2147-10-17**] 07:49 PM
   Metoprolol - [**2147-10-18**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2147-10-18**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 95 (77 - 108) bpm
   BP: 138/71(84) {100/55(70) - 146/77(92)} mmHg
   RR: 29 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 10
   Total In:
                                                                  1,911 mL
                                                                    386 mL
   PO:
                                                                    240 mL
                                                                     30 mL
   TF:
                                                                     15 mL
                                                                      5 mL
   IVF:
                                                                  1,547 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    708 mL
                                                                    765 mL
   Urine:
                                                                    708 mL
                                                                    365 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,203 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 98%
   ABG: 7.51/41/70/34 on 6L
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   moderate tenderness, midline surgical staples
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, and place, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   459 K/uL
   9.4 g/dL
   104 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.4 mEq/L
   40 mg/dL
   107 mEq/L
   144 mEq/L
   30.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2147-10-16**]  07:24 AM
                             [**2147-10-16**]  02:06 PM
                             [**2147-10-16**]  07:44 PM
                             [**2147-10-17**]  04:40 AM
                             [**2147-10-17**]  08:45 AM
                             [**2147-10-17**]  01:51 PM
                             [**2147-10-18**]  02:35 AM
   WBC
   14.9
   6.7
   6.1
   6.0
   5.6
   Hct
   34.0
   27.3
   27.8
   28.0
   30.2
   Plt
   [**Telephone/Fax (3) 2018**]84
   459
   Cr
   1.0
   0.7
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   151
   128
   104
   Other labs: PT / PTT / INR:14.2/28.3/1.2, CK / CKMB /
   Troponin-T:105/2/<0.01, ALT / AST:38/73, Alk Phos / T Bili:80/2.3,
   Amylase / Lipase:85/25, Differential-Neuts:84.2 %, Band:0.0 %,
   Lymph:8.4 %, Mono:7.2 %, Eos:0.1 %, Albumin:2.2 g/dL, LDH:187 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is a 68 year-old male with HTN and hyperlipidemia with recent
   diagnosis of signet-ring cell gastric cancer invading transverse colon
   s/p subtotal gastrectomy, transverse colectomy, feeding J on [**10-12**] who
   presents with increasing oxygen requirement, persistent tachycardia,
   and EKG changes concerning for ischemia.
   .
   Plan:
   # Gastric CA s/p partial gastrectomy/transverse colectomy w/ end-end
   anastamosis: Post op day 3. Incision healing nicely, J-tube in place.
   Now with bilious emesis and nausea after starting sips and tube feeds
   yesterday.
   - tube feeds started yesterday, although now on hold again given
   bilious emesis  - suspect that most likely etiology is ileus in the
   setting of being bedridden and post-op and not eating much, additional
   possibility is that patient with SBO
   - return to NPO
   - in for upper GI with small bowel follow-through this morning, will
   follow up with surgery regarding plan after scan
   - as per surgery do NOT place NG tube, do NOT give raglan  for nausea,
   will need to reassess plan for care
   - pain control w/ IV dilaudid PCA
   - f/u surgery recs, clarify use of J-tube
   # Hypoxia: Patient with post-op hypoxia which may be consistant with
   atelectasis and pleural effusions as seen on CXR, as well as post-op
   pneumoperitoneaum which at this point should have resolved.  Cardiac
   etiology, given tachycardia, also possible but no evidence of CHF, PE
   on imaging studies. Pneumonia possible but unlikely as patient has no
   cough and is afebrile.
   - chest x-ray from 9 /23 -
   Since yesterday, left pleural effusion significantly increased, with
   adjacent
   atelectasis. Right pleural effusion with basal atelectasis is
   unchanged.
   There is no significant pulmonary edema, but vascular congestion
   persists.
   Right subclavian catheter was installed, probably ends in right atrium.
   No
   pneumothorax. Heart size is unchanged.
   - CT scan of chest [**10-16**]:
   IMPRESSION:
   1. No evidence for pulmonary embolism.
   2. Bilateral pleural effusions, left greater than right.
   3. Right lower, right middle and left lower lobe atelectasis with
   fluid-
   filled airways possibly from a component of aspiration.
   4. Mild ascites as well as fluid within the pericolic gutters and
   lesser sac.
   Omental edema and small mesenteric fluid collection likely related to
   postoperative changes without evidence for anastomotic leak.
   5. Small intra-abdominal free air, likely related to postoperative
   changes.
   6. Mild small bowel dilatation which is incompletely visualized with no
   focal
   obstruction visualized, likely related to postoperative ileus.
   7. Hyperdense lesion in the upper pole of the left kidney incompletely
   characterized on this study and could represent either a hyperdense
   cyst or a
   mass. Would recommend further evaluation with MRI when patient is
   clinically
   able to tolerate study.
   - inspiratory spirometry, chest PT, out of bed to chair, PT to assist
   with ambulation
   - consider therapeutic as well as diagnostic tap of pleural effusions
   if do not improve
 will get ultrasound today to assess size
   - oxygen requirement has been stable
   #Agitation
   Patient was extremely agitated overnight and did not sleep much.
   Appears extremely anxious and worried. Tried ativan 1 mg IV this
   morning which appears to have led to delirium.
   -          avoid benzos in the patient for agitation
   -          would try haldol PRN for agitation
   # Tachycardia: Improved with IV metoprolol. Also s/p transfusion of
   pRBCs x1. Hypovolemia still may be exacerbating his tachycardia given
   initial low UOP, low CVP. Echo consistant with LVH, possibly HOCM?
   Given thickened septum. CTA negative. Cardiac enzymes negative -3.
   Afebrile.
   - continue IV metoprolol to ensure absorption
   - cardiology reccomendations - no cath for now; consider esmolol if
   hypotensive (increase diastolic filling)
   - monitor  CVP, IVF bolus to goal of 12
   - Echo results: Moderate symmetric left ventricular hypertrophy with
   global normal systolic function (cannot exclude regional dysfunction).
   Mildly dilated right ventricle with mild hypokinesis.
   - will increase beta blocker dose as HR consistently in the 80s
   - follow-up with new cards recs today
   # ST elevations transiently on EKG: CE neg x3, echo suggestive of LVH
   and hypertrophic septum, and mild free wall hypokinesis but nothing
   concerning for large MI. Per cardiology could also consider vasospasm
   as cause of intermittent chest pains and EKG changes.
   - statin, ASA, metoprolol
   - cards recs as above
   - cont telemetry
   - crit this AM is 30, so no need for additional transfusion at this
   time
   .
   # Low Urine Output: per surgery goal is 30cc/hr, currently on LR at
   80cc/hr; CVP is also low c/w IV hypovolemia. Also FeNa<1, urine w/
   hyaline casts, granular casts c/w pre-renal etiology. Urine ctx
   negative.
   - continue maintenance fluids as recommended by surgery
   - monitor UOP closely, bolus for CVP<12, UOP <30cc/hr
   # Anxiety
   - patient is very anxious, will likely require something at night to
   sleep, this morning given ativan 1-2 mg IV x 1once, need to follow-up
   with surgery regarding plan for treatment
   .
   .
   # FEN:  NPO for now, likely need to restart maintence fluids, again
   will defer to surgery
   .
   # Access: right subclavian, PIV x2
   .
   # PPx:  Hep SC, pneuomboots, PPI
   .
   # Code: : Full
   .
   # Dispo:  ICU care for now
   .
   # Comm:  surgical team, wife
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-10-16**] 06:34 AM
   Multi Lumen - [**2147-10-16**] 08:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-10-19 06:50:00 Physician Resident Progress Note
Chief Complaint: Hypoxia; monitoring UOP
   24 Hour Events:
   Confused yesterday morning; most likely [**2-25**] ativan that was given for
   anxiety. Benzos will be avoided from this point and haldol would be
   used instead
   SBFT yesterday showed post-op ileus. NGT placed by fluoro, but pt
   pulled it out. No new one placed unless pt starts vomiting.
   Cardiology recommended increasing his beta blocker due to persistent
   tachycardia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2147-10-18**] 08:07 AM
   Morphine Sulfate - [**2147-10-18**] 04:30 PM
   Heparin Sodium - [**2147-10-18**] 09:00 PM
   Metoprolol - [**2147-10-19**] 03:00 AM
   Other medications:
   Heparin 5000 UNIT SC TID  [**10-16**]
   Pantoprazole 40 mg IV Q24H  [**10-16**]
   Insulin SC  (per Insulin Flowsheet)
   Ipratropium Bromide Neb 1 NEB IH Q6H  [**10-16**] @ 0626
   Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN sob  [**10-16**] @ 0628
   Morphine Sulfate 1-2 mg IV Q2 HOURS PRN PAIN  [**10-18**] @ 1417
   Metoprolol Tartrate 20 mg IV Q3H
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-19**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 81 (76 - 107) bpm
   BP: 119/76(86) {89/49(67) - 138/83(92)} mmHg
   RR: 33 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 14 (8 - 14)mmHg
   Total In:
                                                                  1,235 mL
                                                                    337 mL
   PO:
                                                                     30 mL
   TF:
                                                                      5 mL
   IVF:
                                                                  1,049 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                    455 mL
   Urine:
                                                                    865 mL
                                                                    255 mL
   NG:
                                                                    900 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 94%
   ABG: 7.51/41/70/33/8
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: , Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   418 K/uL
   8.3 g/dL
   138 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   47 mg/dL
   110 mEq/L
   146 mEq/L
   25.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2147-10-16**]  07:24 AM
                             [**2147-10-16**]  02:06 PM
                             [**2147-10-16**]  07:44 PM
                             [**2147-10-17**]  04:40 AM
                             [**2147-10-17**]  08:45 AM
                             [**2147-10-17**]  01:51 PM
                             [**2147-10-18**]  02:35 AM
                             [**2147-10-18**]  09:11 AM
                             [**2147-10-19**]  04:08 AM
   WBC
   14.9
   6.7
   6.1
   6.0
   5.6
   8.6
   Hct
   34.0
   27.3
   27.8
   28.0
   30.2
   25.6
   Plt
   [**Telephone/Fax (3) 2018**]84
   459
   418
   Cr
   1.0
   0.7
   0.8
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   34
   Glucose
   151
   128
   104
   138
   Other labs: PT / PTT / INR:14.1/27.4/1.2, CK / CKMB /
   Troponin-T:105/2/<0.01, ALT / AST:35/74, Alk Phos / T Bili:71/2.7,
   Amylase / Lipase:76/44, Differential-Neuts:84.2 %, Band:0.0 %,
   Lymph:8.4 %, Mono:7.2 %, Eos:0.1 %, Albumin:1.9 g/dL, LDH:185 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 68 year-old male with HTN and hyperlipidemia with recent
   diagnosis of signet-ring cell gastric cancer invading transverse colon
   s/p subtotal gastrectomy, transverse colectomy, feeding J on [**10-12**] who
   presents with increasing oxygen requirement, persistent tachycardia,
   and EKG changes concerning for ischemia.
   .
   # Hypoxia: Patient with post-op hypoxic respiratory distress since day
   1, which most likely is consistend with atelectasis and pleural
   effusion seen on CXR. Cardiac etiology may be possible, but not likely
   given no evidence of CHF on physical exam or in pre-op echocardiogram.
   However, there may be an inflow obstructive problem. [**Name (NI) **] may be
   pre-load dependent and now has CVP of 14. Patient has been afebrile
   with stable hemodynamics. Patient with stable oxygen requirements on
   15L
   -          Continue chest PT
   -          Continue moving patient out of bed
   -          Pleural effusions too small to require tapping as of
   yesterday; will re-asses today
   -          Keep negative balance; goal -500cc
   # Gastric CA s/p partial gastrectomy/transverse colectomy w/ end-end
   anastamosis. Patient with post-op ileus by SBT yesterday and KUB
   unchanged today. Patient still with significant nausea and bilous
   vomit.
   -          NPO for now
   -          Talk to surgery about placing new NGT
   -          No raglan
   -          Continue IVF
   #Agitation: Patient became agitated and confuses yesterday. He was
   sleep deprived, anxious, stressed and received 1mg of Ativan IV, which
   caused him to be delirious.
   -          Avoid benzodiacepines
   -          Haldol PRN for agitation
   # Tachycardia: Improving with beta-blocker; yesterday only borderline
   up to 107. Beta-blocker were increased yesterday and patient responded
   adequately.
   -          Continue IV metoprolol and swith to PO when ileus is
   resolved. Target HR 60-80.
   -          Increase betablocker or start esmolol to increase diastolic
   filling if hypotensive
   -          Maintain CVP >12
   -          Follow up cardiology recs
   # ST elevations transiently on EKG: CE neg x3, echo suggestive of LVH
   and hypertrophic septum, and mild free wall hypokinesis but nothing
   concerning for large MI. Per cardiology could also consider vasospasm
   as cause of intermittent chest pains and EKG changes.
   - statin, ASA, metoprolol
   - cont telemetry
   .
   # Low Urine Output: per surgery goal is 30cc/hr, currently on LR at
   80cc/hr; CVP is adequate now. Patient has been 40-50cc/hr. Urine
   culture negative.
   - continue maintenance fluids as recommended by surgery
   - monitor UOP closely, bolus for CVP<12, UOP <30cc/hr
   .
   # FEN:  NPO for now, Patient with LR @80cc/hr, again will defer to
   surgery
   .
   # Access: right subclavian, PIV x2
   .
   # PPx:  Hep SC, pneuomboots, PPI
   .
   # Code: : Full
   .
   # Dispo:  ICU care for now
   .
   # Comm:  surgical team, wife
   ICU [**Name (NI) 81**]
   Nutrition:
   TPN without Lipids - [**2147-10-18**] 09:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-10-16**] 06:34 AM
   Multi Lumen - [**2147-10-16**] 08:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-10-19 10:51:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient able to ambulate within ICU with PT yesterday
   -Increased incentive spirometry
   -NGT placed in the setting of Ileus but self-D/C'd
   O2 requirement improved to 4 lpm by nasal cannula
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2147-10-18**] 04:30 PM
   Heparin Sodium - [**2147-10-19**] 08:00 AM
   Metoprolol - [**2147-10-19**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-10-19**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 70 (68 - 107) bpm
   BP: 108/61(72) {89/49(67) - 138/83(92)} mmHg
   RR: 23 (15 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 8 (6 - 14)mmHg
   Total In:
                                                                  1,235 mL
                                                                    539 mL
   PO:
                                                                     30 mL
   TF:
                                                                      5 mL
   IVF:
                                                                  1,049 mL
   Blood products:
   Total out:
                                                                  1,765 mL
                                                                    925 mL
   Urine:
                                                                    865 mL
                                                                    425 mL
   NG:
                                                                    900 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -530 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   418 K/uL
   138 mg/dL
   0.8 mg/dL
   33 mEq/L
   3.9 mEq/L
   47 mg/dL
   110 mEq/L
   146 mEq/L
   25.6 %
   8.6 K/uL
        [image002.jpg]
                             [**2147-10-16**]  07:24 AM
                             [**2147-10-16**]  02:06 PM
                             [**2147-10-16**]  07:44 PM
                             [**2147-10-17**]  04:40 AM
                             [**2147-10-17**]  08:45 AM
                             [**2147-10-17**]  01:51 PM
                             [**2147-10-18**]  02:35 AM
                             [**2147-10-18**]  09:11 AM
                             [**2147-10-19**]  04:08 AM
   WBC
   14.9
   6.7
   6.1
   6.0
   5.6
   8.6
   Hct
   34.0
   27.3
   27.8
   28.0
   30.2
   25.6
   Plt
   [**Telephone/Fax (3) 2018**]84
   459
   418
   Cr
   1.0
   0.7
   0.8
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   34
   Glucose
   151
   128
   104
   138
   Other labs: PT / PTT / INR:14.1/27.4/1.2, CK / CKMB /
   Troponin-T:105/2/<0.01, ALT / AST:35/74, Alk Phos / T Bili:71/2.7,
   Amylase / Lipase:76/44, Differential-Neuts:84.2 %, Band:0.0 %,
   Lymph:8.4 %, Mono:7.2 %, Eos:0.1 %, Albumin:1.9 g/dL, LDH:185 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   KUB
Some increased bowel gas c/w ileus
   CXR
Persistent bilateral LL area opacities c/w collapse and some
   effusion superimposed
   Assessment and Plan
   68 yo male with h/o gastric CA and now with post operative course
   complicated by significant hypoxemia likely related to atelectasis as
   well as post operative ilues leading to significant concern for
   possible aspiraiton risk as well.
   1)Hypoxemia
Improved to nasal cannula requirement with ambulation able
   to be tolerated yesterday
   -Keep Incentive Spirometry 10x/hr while awake
   -Continue with Ambulation daily
   2)Ileus
   -Maintain J-tube clamped
   -NGT to suction
   ICU Care
   Nutrition:
   TPN without Lipids - [**2147-10-18**] 09:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-10-16**] 06:34 AM
   Multi Lumen - [**2147-10-16**] 08:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to floor
   Total time spent: 35 minutes